US06583135B2
tert-Butyl 6-(2-amino-2-oxoethyl)-1,4,5,6-tetrahydroazepino[4,5-b]indole-3(2H)-carboxylate (0.0233 g, 0.0678 mmol) was dissolved in CH2Cl2 (2 mL) at rt. CF3CO2H (0.8 mL) was added, then the reaction mixture was stirred for 30 min. The reaction mixture was concentrated to give a crude product (0.0288 g). The crude product was dissolved in EtOAc (1 mL), 1 N HCl in Et2O (2 mL) was added, and the precipitated salt was collected by filtration. 2-(2,3,4,5-Tetrahydroazepino[4,5-b]indol-6(1H)-yl)acetamide hydrochloride (0.0151 g) was obtained in 80% yield. 1H NMR (300 MHz, DMF-d7) δ 3.29-3.33, 3.40-3.43, 3.50-3.58, 4.97, 7.07, 7.15, 7.45, 7.53; MS (ESI+) for C14H17N3O m/z 244.1 (M+H)+.

reactant | tert-Butyl 6-(2-amino-2-oxoethyl)-1,4,5,6-tetrahydroazepino[4,5-b]indole-3(2H)-carboxylate | 0.0678 mmol, 0.0233 g | NC(CN1C2=C(C=3C=CC=CC13)CCN(CC2)C(=O)OC(C)(C)C)=O | C19H25N3O3
reactant | CF3CO2H | 0.8 mL | C(F)(F)(F)C(=O)O | C2HF3O2
reactant | HCl | 1 N | Cl | ClH
solvent | CH2Cl2 | 2 mL | C(Cl)Cl | CH2Cl2
solvent | EtOAc | 1 mL | CCOC(=O)C | C4H8O2
solvent | Et2O | 2 mL | CCOCC | C4H10O
product | 2-(2,3,4,5-Tetrahydroazepino[4,5-b]indol-6(1H)-yl)acetamide hydrochloride | 0.0151 g, 80% yield | Cl.C1CNCCC=2N(C=3C=CC=CC3C21)CC(=O)N | InChI=1S/C14H17N3O.ClH/c15-14(18)9-17-12-4-2-1-3-10(12)11-5-7-16-8-6-13(11)17;/h1-4,16H,5-9H2,(H2,15,18);1H
